US05223499
Step 2: Preparation of 5,7-dimethyl-2-propyl-6-[(1-oxobutyl)amino]imidazo[4,5-b]pyridine
The title compound is prepared using the method outlined in Example 5 step 2 starting with 2-amino-4,6-dimethyl-3,5-dinitropyridine in the place of 2-amino-6-methylpyridine and butyric acid in the place of valeric acid.

reactant | 2-amino-4,6-dimethyl-3,5-dinitropyridine | NC1=NC(=C(C(=C1[N+](=O)[O-])C)[N+](=O)[O-])C | C7H8N4O4
reactant | butyric acid | C(CCC)(=O)O | C4H8O2
product | 5,7-dimethyl-2-propyl-6-[(1-oxobutyl)amino]imidazo[4,5-b]pyridine | CC1=C(C(=C2C(=N1)N=C(N2)CCC)C)NC(CCC)=O | C15H22N4O
